US07622589B2
86A) 4-bromo-2-(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)aniline
To a DMF (50 ml) solution of 1-Amino-2-[2-(tert-butyldimethylsilyloxy)ethyl]benzene (3.96 g, 0.015 mol) [European journal of organic chemistry, 2001, issue 48, 2447-2462] was added N-bromosuccinimide (2.67 g, 0.015 mol) and the mixture was stirred at ambient temperature for 24 hours. Then, the reaction was poured onto saturated aqueous sodium bicarbonate water and extracted with dichloromethane. The organic layer was dried over sodium sulfate, filtration and evaporation. The crude material was purified through silica gel column chromatography eluting with hexane/ethyl acetate (10:1 to 5:1) to afford 3.62 g (73% yield) of the title compound as brown oil.

reactant | 1-Amino-2-[2-(tert-butyldimethylsilyloxy)ethyl]benzene | 0.015 mol, 3.96 g | NC1=C(C=CC=C1)CCO[Si](C)(C)C(C)(C)C | C14H25NOSi
reactant | N-bromosuccinimide | 0.015 mol, 2.67 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 4-bromo-2-(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)aniline | 3.62 g, 73% yield | BrC1=CC(=C(N)C=C1)CCO[Si](C)(C)C(C)(C)C | C14H24BrNOSi
